US07393959B2
A solution of 2-(1H-pyrrol-3-yl)pyridine (0.144 g, 1.0 mmol), 3-(3-iodophenyl)pyridine (0.281 g, 1.2 mmol), 1,10-phenanthroline (0.360 g, 2 mmol), Potassium phosphate (0.445 g, 2.1 mmol), in dioxane (3 mL) was degassed with argon for 5 minutes, followed by the addition of copper (I) iodide (0.038 g, 0.2 mmol). The reaction mixture was heated at 110° C. for 4 hr. The reaction mixture was quenched with H2O (30 mL), then extracted with EtOAc (3×30 mL) and the combined organic extracts washed with brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude purified by liquid chromatography on silica gel using an ISCO single channel system (Hexane/EtOAc=9/1 to 1/9) to afford 2-[1-(3-pyridin-3-ylphenyl)-1H-pyrrol-3-yl]pyridine as a slightly yellow oil. The free base in anhydrous diethyl ether was treated with 1.5 equivalents HCl (1M in ether) to give the HCl salt.

reactant | 2-(1H-pyrrol-3-yl)pyridine | 1.0 mmol, 0.144 g | N1C=C(C=C1)C1=NC=CC=C1 | C9H8N2
reactant | 3-(3-iodophenyl)pyridine | 1.2 mmol, 0.281 g | IC=1C=C(C=CC1)C=1C=NC=CC1 | C11H8IN
reactant | 1,10-phenanthroline | 2 mmol, 0.360 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Potassium phosphate | 2.1 mmol, 0.445 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 0.2 mmol, 0.038 g | [Cu]I
product | 2-[1-(3-pyridin-3-ylphenyl)-1H-pyrrol-3-yl]pyridine | N1=CC(=CC=C1)C=1C=C(C=CC1)N1C=C(C=C1)C1=NC=CC=C1 | C20H15N3
